US08980886B2
Synthesis of ethyl 4-(2-chlorophenyl)-2-[5-(trifluoromethyl)-2H-tetrazol-2-yl]methylpyrimidine-5-carboxylate
345 mg (0.97 mmol) of ethyl 2-(bromomethyl)-4-(2-chlorophenyl)pyrimidine-5-carboxylate were added to a solution of 200 mg (1.45 mmol) of trifluoromethyltetrazole in 10 ml of acetonitrile. Then 174 mg (1.26 mmol) of potassium carbonate were added to the reaction solution, and the mixture was stirred at 60° C. for 6 hours. After cooling to room temperature, the reaction solution was filtered and the mother liquor was freed from the solvent under reduced pressure. 10 ml of water were added to the residue and the mixture was extracted with ethyl acetate (3×20 ml). The combined organic phases were dried over sodium sulphate. The solvent was removed under reduced pressure and the residue was purified by chromatography. (logP: 3.56; MH+: 413; 1H-NMR (400 MHz, DMSO, ppm): 0.99 (t, 3H), 4.13 (q, 2H), 6.62 (s, 2H), 7.50 (m, 4H), 9.28 (s, 1H).

reactant | ethyl 2-(bromomethyl)-4-(2-chlorophenyl)pyrimidine-5-carboxylate | 0.97 mmol, 345 mg | BrCC1=NC=C(C(=N1)C1=C(C=CC=C1)Cl)C(=O)OCC | C14H12BrClN2O2
reactant | trifluoromethyltetrazole | 1.45 mmol, 200 mg | FC(F)(F)C1=NN=NN1 | C2HF3N4
reactant | potassium carbonate | 1.26 mmol, 174 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | ethyl 4-(2-chlorophenyl)-2-[5-(trifluoromethyl)-2H-tetrazol-2-yl]methylpyrimidine-5-carboxylate | ClC1=C(C=CC=C1)C1=NC(=NC=C1C(=O)OCC)CN1N=C(N=N1)C(F)(F)F | C16H12ClF3N6O2
